US05872118
A solution of butyllithium, 1.6M in hexanes (230 ml,0.368 mol, Aldrich) was added dropwise over 0.5 hr, with rapid mechanical stirring, to a solution of triethyl phosphonoacetate (78.9 g, 0.351 mol, Aldrich) in tetrahydrofuran (800 ml, anhydrous, Aldrich) at <5° C. while blanketed with a nitrogen atmosphere. This solution was stirred for an additional 0.25 hr and cooled to -5° C. with a methanol:ice bath and a solution of 4'-fluoropropiophenone (50 g,0.328 mol, Aldrich) in tetrahydrofiran (50 ml) was then added in one portion. Stirring was continued for 18 hr without additional cooling. The solution was concentrated to a golden yellow sludge by spin evaporation in vacuo and diluted to 1000 ml with ethyl acetate. After washing with deionized water (3×100 ml) this solution was concentrated by spin evaporation in vacuo. Distillation at reduced pressure gave 45.65 g (63%) of ethyl 3-(4-fluorophenyl)pentenoate as a mixture of (E) and (Z) isomers (ratio 1:1) contaminated with 30% of triethyl phosphonoacetate as a clear liquid, b.p. 140°-146° C. at aspirator pressure;

reactant | butyllithium | C(CCC)[Li]
reactant | methanol | CO | CH4O
reactant | 4'-fluoropropiophenone | 0.328 mol, 50 g | FC1=CC=C(C=C1)C(CC)=O | C9H9FO
reactant | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | ethyl 3-(4-fluorophenyl)pentenoate | 45.65 g, 63% | FC1=CC=C(C=C1)C(=CC(=O)OCC)CC | C13H15FO2
